US07157447B2
N-(4-Fluoro-2-(2-oxopyrrolidin-1-yl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
The title compound can be prepared from intermediate 27, 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid and 1-(2-(aminomethyl)-5-fluorophenyl)pyrrolidin-2-one, derived from reduction of intermediate 111, 4-fluoro-2-(2-oxopyrrolidin-1-yl)benzonitrile. 1HNMR 400 MHz (MeOD) δ ppm: 7.44 (3H, m), 7.33 (3H, m), 7.11 (1H, dd, J=9.2, 3.0 Hz) 7.03 (1H, m), 5.21 (2H, s), 4.43 (2H, s), 4.08 (2H, t, J=5.0 Hz), 3.98 (2H, t, J=5.0 Hz), 3.85 (2H, t, J=7.1 Hz), 2.58 (2H, t, J=8.0 Hz), 2.23 (2H, m), 1.61 (6H, s). LCMS (M+H)+ m/z 521.

reactant | 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)O | C17H18N2O5
reactant | 1-(2-(aminomethyl)-5-fluorophenyl)pyrrolidin-2-one | NCC1=C(C=C(C=C1)F)N1C(CCC1)=O | C11H13FN2O
product | N-(4-Fluoro-2-(2-oxopyrrolidin-1-yl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=C1)N1C(CCC1)=O | C28H29FN4O5
